US04349686
N-Acetyl-N-hexadecyl-5-amino-thien-2-yl-carboxylic acid.
25 g of N-(5-formyl-thien-2-yl)-N-hexadecylacetamide are dissolved in 20 cc. of pyridine. A solution of 6.7 g of potassium permanganate in 90 cc. of pyridine and 40 cc. of water is added with stirring and cooling such that the temperature of the reaction mixture does not rise above -3° C. Stirring is continued until all of KMnO4 has been reacted. Thereafter, the solvents are distilled off, the residue is triturated with dilute hydrochloric acid and the mixture is extracted with chloroform. The chloroform layer is separated, washed with water and dried over Na2SO4. The solvent is evaporated and the resulting crude product is purified chromatographically on a column of silicic acid gel using chloroform as eluant.

reactant | N-(5-formyl-thien-2-yl)-N-hexadecylacetamide | 25 g | C(=O)C1=CC=C(S1)N(C(C)=O)CCCCCCCCCCCCCCCC | C23H39NO2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | potassium permanganate | 6.7 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
solvent | water | O | H2O
product | N-Acetyl-N-hexadecyl-5-amino-thien-2-yl-carboxylic acid | C(C)(=O)N(C1=CC=C(S1)C(=O)O)CCCCCCCCCCCCCCCC | C23H39NO3S
